US05686424
A solution of N-carbobenzyloxy-L-proline-L-isoleucine benzylamide (36.60 g, 80.95 mmol), 10% palladium on carbon (0.957 g), and methanol (700 mL) was degassed and purged repeatedly (15 times) with hydrogen, and stirred under an atmosphere of hydrogen at 22° C. When TLC analysis indicated the reaction was complete, the solution was purged with argon, filtered through a plug of celite, and concentrated in vacuo to provide 23.71 g, (92%) of L-proline-L-isoleucine benzylamide as a white solid.

reactant | N-carbobenzyloxy-L-proline L-isoleucine benzylamide | 80.95 mmol, 36.60 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
catalyst | palladium on carbon | 0.957 g | [Pd] | Pd
solvent | methanol | 700 mL | CO | CH4O
product | L-proline L-isoleucine benzylamide | 92% | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O | InChI=1S/C13H20N2O.C5H9NO2/c1-3-10(2)12(14)13(16)15-9-11-7-5-4-6-8-11;7-5(8)4-2-1-3-6-4/h4-8,10,12H,3,9,14H2,1-2H3,(H,15,16);4,6H,1-3H2,(H,7,8)/t10-,12-;4-/m00/s1
